US07723464B2
Preparation of 2,7-Diamino-9,9-diocty-fluorene (AFDA)
2,7-Dinitro-9,9-dioctylfluorene (27.84 g, 57.93 mmol) was dissolved in absolute ethanol (90 mL) and tetrahydrofuran (THF, 50 mL). Palladium on carbon (5%, 0.5 g) was subsequently added. The mixture was placed on a Parr hydrogenator and shaken under 40 psi of hydrogen for 4 hrs. at room temperature. The mixture was filtered through CELITE® and the solvent removed by rotary evaporation to afford a red-brown liquid. The crude product was dissolved in CHCl3 and stirred with decolorizing charcoal for 1 hr. at room temperature. The solution was filtered and the solvent removed by rotary evaporation to give a red liquid that slowly solidified into needle-like crystals (mp 58-63° C.). Yield=22.36 g (91.76%). 1H NMR (300 MHz, CDCl3) δ 0.7 (m, 4H), 0.8 (t, 6H), 1.0-1.3 (m, 20H), 1.9 (m, 4H), 3.6 (s, 4H), 6.6 (m, 4H), 7.3 (d, 2H) ppm. 13C NMR (75 MHz, CDCl3) δ 15, 23, 24, 30, 30, 31, 32, 41, 55, 111, 114, 119, 134, 145, 152 ppm. EA calcd. for C29H46N2: % C, 82.80; % H, 10.54; % N, 6.66. Found: % C, 82.29; % H, 10.06; % N, 6.73.

reactant | 2,7-Dinitro-9,9-dioctylfluorene | 57.93 mmol, 27.84 g | [N+](=O)([O-])C1=CC=2C(C3=CC(=CC=C3C2C=C1)[N+](=O)[O-])(CCCCCCCC)CCCCCCCC | C29H40N2O4
reactant | hydrogen | [H][H] | H2
reactant | charcoal | C | CH4
reactant | EA | CC(OCC)=O | C4H8O2
solvent | ethanol | 90 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | Palladium on carbon | 0.5 g | [Pd] | Pd
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2,7-Diamino-9,9-diocty-fluorene | NC1=CC=2C(C3=CC(=CC=C3C2C=C1)N)(CCCCCCCC)CCCCCCCC | C29H44N2
